US08217043B2
c) 4-Chloro-1-[(2-methoxycarbonyl-acetyl)-(4-methoxy-benzyl)-amino]-1H-pyrrole-2-carboxylic acid methyl ester
Prepared according to the acylation condition used in Example 2 step f) from 4-chloro-1-(4-methoxy-benzylamino)-1H-pyrrole-2-carboxylic acid methyl ester and chlorocarbonyl-acetic acid methyl ester (1.5 eq.). ESI (m/z): 395 (M+H)+.

reactant | 4-chloro-1-(4-methoxy-benzylamino)-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)NCC1=CC=C(C=C1)OC | C14H15ClN2O3
reactant | chlorocarbonyl-acetic acid methyl ester | 1.5 eq. | COC(CC(=O)Cl)=O | C4H5ClO3
product | 4-Chloro-1-[(2-methoxycarbonyl-acetyl)-(4-methoxy-benzyl)-amino]-1H-pyrrole-2-carboxylic acid methyl ester | COC(=O)C=1N(C=C(C1)Cl)N(CC1=CC=C(C=C1)OC)C(CC(=O)OC)=O | C18H19ClN2O6
